US04318924
A solution of 25 g (0.15 mol) of 2-nitro-benzoic acid in 75 ml of methanol was added dropwise to a boiling solution of 31 g (0.15 mol) of dicyclohexyl-carbodiimide and 8 ml of triethylamine in 300 ml of methanol. The reaction mixture was heated under reflux for 2 hours and stirred at room temperature overnight. After distilling off the solvent in vacuo, the residue was recrystallized from isopropanol. 25 g (45% of theory) of N-(2-nitrobenzoyl)-N,N'-dicyclohexyl-urea of melting point 134° C. were obtained.

reactant | 2-nitro-benzoic acid | 0.15 mol, 25 g | [N+](=O)([O-])C1=C(C(=O)O)C=CC=C1 | C7H5NO4
reactant | dicyclohexyl-carbodiimide | 0.15 mol, 31 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | triethylamine | 8 ml | C(C)N(CC)CC | C6H15N
reactant | methanol | 75 ml | CO | CH4O
reactant | methanol | 300 ml | CO | CH4O
product | N-(2-nitrobenzoyl)-N,N'-dicyclohexyl-urea | 25 g, 45% | [N+](=O)([O-])C1=C(C(=O)N(C(=O)NC2CCCCC2)C2CCCCC2)C=CC=C1 | C20H27N3O4
